US07368434B2
7-Methoxy-4′-Hydroxyisoflavone (Analog 2)
To a solution of 5.1 g of daidzein (20.06 mmol) in 40 ml of DMSO was added 3.5 g of anhydrous K2CO3 (25.4 mmol) and 6 ml of iodomethane (96.4 mmol). The mixture was stirred at room temperature for 2 hours and then poured into ice water to precipitate product. Precipitates were extracted with ethyl acetate, dried by flash evaporation and purified on a Sephadex LH-20 column (chloroform:methanol/7:3). Final product was recrystallized from acetone to give 2.3 g of crystalline analog 2, a yield of 45.1% (w/w): mp 210-211° C.; 1H NMR (DMSO-d6) δ 3.89 (—OCH3), 6.81 (d, 2H, J=8.43 Hz, 3′, 5′-H), 7.05 (dd, 1H, J=8.89, 2.39 Hz, 6-H), 7.11 (d, 1H, J=2.07 Hz, 8-H), 7.39 (d, 2H, J=8.62 Hz, 2′, 6′-H), 8.01 (d, 1H, J=8.87 Hz; 5-H), 8.35 (s, 1H, 2-H), 9.54 (s, 1H, 4′-OH). Anal. (C16H12O4) for C, H. Cacld: 71.64, 4.51; found: 71.24, 4.47.

reactant | daidzein | 20.06 mmol, 5.1 g | C1=CC(=CC=C1C2=COC=3C=C(C=CC3C2=O)O)O | C15H10O4
reactant | K2CO3 | 25.4 mmol, 3.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 96.4 mmol, 6 ml | IC | CH3I
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | 7-Methoxy-4′-Hydroxyisoflavone | yield of 45.1% | COC1=CC=C2C(C(=COC2=C1)C1=CC=C(C=C1)O)=O | C16H12O4
